US07163924B2
To a solution of 4-[4-(4-chloro-3-pyridyl)imidazolyl]butylamine (400 mg, mmoles) was added sodium methoxide, 5.3 M in methanol (10 ml, 53 mmoles). The reaction mixture was heated at 70° C. for 2 hours. Upon cooling the reaction mixture was concentrated to around 4 ml and then was taken up in dichloromethane (125 ml) and was washed with water (20 ml). The aqueous layer was extracted further with dichloromethane (125 ml), the combined organics were dried over MgSO4, filtered, and concentrated yielding 4-[4-(4-methoxy-3-pyridyl)imidazolyl]butylamine (379 mg, 96%). MH+(247).

reactant | 4-[4-(4-chloro-3-pyridyl)imidazolyl]butylamine | 400 mg | ClC1=C(C=NC=C1)C=1N=C(NC1)CCCCN | C12H15ClN4
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 53 mmoles, 10 ml | CO | CH4O
product | 4-[4-(4-methoxy-3-pyridyl)imidazolyl]butylamine | 379 mg, 96% | COC1=C(C=NC=C1)C=1N=C(NC1)CCCCN | C13H18N4O
